US08563723B2
3-Benzyloxy-5-chloro-benzenesulfonyl chloride
Under N2 atmosphere, 2.23 g 1-benzyloxy-3-bromo-5-chloro-benzene was dissolved in 50 mL dry THF, and the mixture was cooled in an ice bath. Dropwise, 14.84 mL of a 1M solution of isopropyl magnesium chloride-lithium chloride complex was added, and the mixture was stirred at room temperature overnight. After cooling to −40° C., 2.41 mL of sulfuryl chloride was added in one portion (T raised to 10° C.), and the mixture was stirred for 15 minutes at room temperature. After cooling with an ice bath, the mixture was quenched with water and acidified with 1M aqueous HCl. The mixture was extracted with MTBE, and the organic phase was dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (PA→PA/Et2O 95:5) to yield 1.53 g (62%) of a colorless oil. 1H NMR (400 MHz, CDCl3) δ 5.14 (s, 2H), 7.30 (t, J=2 Hz, 1H), 7.34-7.47 (m, 5H), 7.50 (t, J=2 Hz, 1H), 7.62 (t, J=1.5 Hz, 1H).

reactant | 1-benzyloxy-3-bromo-5-chloro-benzene | 2.23 g | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)Cl)Br | C13H10BrClO
reactant | sulfuryl chloride | 2.41 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-Benzyloxy-5-chloro-benzenesulfonyl chloride | 1.53 g, 62% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C13H10Cl2O3S
